US07041690B2
Acording to literature reference (Kelly, T. R.; Lang, F. J. Org. Chem. 1996, 61, 4623–4633), crude ethyl 2-amino-4-thiazolecarboxylate (19.0 g, 111 mmol) is combined with sodium bromide (46.7 g, 444 mmol) and copper (II) sulfate (52.4 g, 333 mmol). A portion of 9N sulfuric acid (225 mL) is then added and the reaction mixture is cooled in an ice/salt bath. A solution of sodium nitrate (8.35 g, 122 mmol) in water (100 mL) is added drop wise to this reaction mixture over 30 minutes while maintaining the reaction temperature at 0° C. Once the addition is complete, the reaction mixture is stirred at 0° C. for 30 minutes and at 25° C. for an additional 1.5 hours. A portion of water (300 mL) is then added and the reaction mixture extracted with diethyl ether. Subsequently, the aqueous layer is made basic (pH 9) by addition of 20% sodium hydroxide and then extracted a second time with diethyl ether. The combined organic extracts are dried over sodium sulfate and concentrated. The crude product is purified by column chromatography (20% ethyl acetate in hexanes) to afford 5.06 g of ethyl 2-bromo-4-thiazolecarboxylate.

reactant | ethyl 2-amino-4-thiazolecarboxylate | 111 mmol, 19.0 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | sodium bromide | 444 mmol, 46.7 g | [Br-].[Na+]
reactant | sulfuric acid | 9N, 225 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrate | 122 mmol, 8.35 g | [N+](=O)([O-])[O-].[Na+]
solvent | water | 100 mL | O | H2O
catalyst | copper (II) sulfate | 333 mmol, 52.4 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 300 mL | O | H2O
product | ethyl 2-bromo-4-thiazolecarboxylate | 5.06 g | BrC=1SC=C(N1)C(=O)OCC | C6H6BrNO2S
